Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
fluticasone
 
Attending: ___.
 
Chief Complaint:
fevers, headache, cough, myalgias
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ w/ mucosal lichen planus involving the 
esophagus (c/b strictures, esophagitis and subsequent 
iron-deficiency anemia, and dysphagia), gingiva, and vagina (c/b 
strictures) treated with hydroxychloroquine, methotrexate & 
prednisone (currently off therapy a of ___ presenting w/ 1 
month h/o non-productive coughs, 1 week h/o myalgias, HA, 
nightsweats, and 3-day history of the above + fevers up to 
102.4F. 

To summarize her immunosuppressive medications for lichen 
planus, she was started on hydroxychloroquine ___, 
then methotrexate ___. In addition, she received an 
8 week regiment of prednisone (2 weeks on 40mg, then tapered 
down by 10 every 2 weeks) which ended ___. She does not 
remember being on trimethoprim-sulfamethoxazole prophylaxis. 

In early ___, she developed a non-productive cough.  On 
___, developed a throbbing posterior headache, photophobia, 
diffuse myalgias, and night sweats.  She noted a fever ___ 
___ & continued fevers up to 102.4 by ___. 

On ROS, the patient denied weight loss, changes in vision, 
temporal pain, sore throat, rhinorrhea, increased odynophagia, 
SOB/DOE, sputum production, pleurisy, chest pain, abdominal 
pain, diarrhea, constipation, dysuria, increased urination, 
urinary retention, weakness, paresthesias, leg swelling, or 
rashes, vaginal discharge, vaginal itching, vaginal pain, nipple 
discharge or breast pain. 

She has no pets and no animal contacts. No tick bites but does 
note deer in backyard. No identified sick contacts. Recent 
travel to ___ & ___, and history of travel to 
___ and ___ ___ years ago. No incarceration, homeless 
contact, contact w/ any known persons with tuberculosis. 

Of note, she is up to date on her cancer screening (recent 
colonoscopy ___ and mammogram ___ negative for malignancy).
 
Past Medical History:
lichen planus, Celiac disease, anemia
 
Social History:
___
Family History:
Per chart review:
PGM: Breast cancer
Mother: DM2, hypothyroidism, CABG, colon cancer    
Brother: colon cancer, CAD                                    
Brother: HTN                                
Brother: kidney stones                        
Sister: ___ disease   
Father: OA, RA, CVA, prostate cancer, HTN   
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 98.1, HR 84, BP 101/65, RR 18, SO2 99% RA 
General: Alert, oriented, no acute distress 
HEENT: Sclerae anicteric, MMM, oropharynx non-erythematous and 
non-exudative, EOMI, neck supple, JVP not elevated, no cervical 
LAD 
CV: RRR, normal S1/S2, no murmurs, rubs, gallops 
Lungs: CTAB - no wheezes, rales, or rhonchi 
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding 
GU: No foley 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Skin: Warm, dry, no rashes or notable lesions.
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation. No signs of meningismus. 
Breast: No erythema, discharge, or masses appreciated 

DISCHARGE PHYSICAL EXAM:
========================
Physical Exam: T98.3 BP 97/62 HR84 RR20 ___ 
General: Thin but well appearing middle-aged female, NAD, A/Ox3. 

Head: Anicteric sclera, clear conjunctiva, oropharynx clear. 
Neck: Sore to move but chin-to-chest intact. 
CV: Normal S1, S2 w/ no m/r/g. 
Respiratory: Normal effort, CTABL w/o w/r/r. 
GI: Soft, NT, ND, normoactive bowel sounds. No organomegaly. 
MSK: Range of motion grossly intact, no tenderness to joint 
palpation. 
Skin: No noted skin lesions or rashes. 
Neurological: No focal neurological findings. Moves limbs 
spontaneously. Sensation grossly intact. 
Psychiatric: Normal mood and affect. 
 
Pertinent Results:
LABS:
=====
___ 10:22AM BLOOD WBC-9.2 RBC-4.55 Hgb-13.2 Hct-39.8 MCV-88 
MCH-29.0# MCHC-33.2# RDW-19.9* RDWSD-61.3* Plt ___
___ 10:22AM BLOOD Neuts-79.4* Lymphs-9.7* Monos-6.9 Eos-3.1 
Baso-0.5 Im ___ AbsNeut-7.26* AbsLymp-0.89* AbsMono-0.63 
AbsEos-0.28 AbsBaso-0.05
___ 10:22AM BLOOD UreaN-12 Creat-0.6 Na-139 K-4.1 Cl-98 
HCO3-27 AnGap-14
___ 10:22AM BLOOD ALT-20 AST-19 AlkPhos-79 TotBili-0.8
___ 08:40AM BLOOD Calcium-9.4 Phos-2.7 Mg-2.1
___ 08:40AM BLOOD Ferritn-610*
___ 08:40AM BLOOD TSH-1.1
___ 10:22AM BLOOD CRP-145.2*
___ 06:19PM BLOOD Lactate-1.6
___ 09:20PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 09:20PM BLOOD H/O Smr-DONE
___ 08:40AM BLOOD LD(LDH)-267*
___ 09:20PM BLOOD CK(CPK)-15*
___ 09:20PM BLOOD RheuFac-13 ___

IMAGING:
========
CT Chest: Unremarkable contrast-enhanced chest CT without 
evidence of infection or
lymphadenopathy.

CXR: No acute cardiopulmonary process.

MICROBIOLOGY:
=============
HIV Ab NEG
influenza nasal swab NEG
MonoSpot NEG
Lyme IgG & IgM NEG
RP NEG
Red cell smear normal
Blood cultures NO GROWTH
Urine culture GBS
CSF 1 WBC, NO GROWTH
Aspergillus Galactomannan NEG
Parvovirus B19 NEG

PENDING:
========
ANCA
Pertussis serology
CMV IgG & IgM
Anaplasma Ab
B-Glucan
Blastomyces Ag
Histoplasma Ag
Coccidioides 
 
Brief Hospital Course:
Patient Summary for Admission:
=========================
___ is a ___ w/ mucosal lichen planus involving the 
esophagus (c/b strictures, esophagitis and subsequent 
iron-deficiency anemia, and dysphagia), gingiva, and vagina (c/b 
strictures) treated with hydroxychloroquine, methotrexate & 
prednisone (currently off therapy a of ___ presenting w/ 1 
month h/o non-productive coughs, 1 week h/o myalgias, HA, 
nightsweats, and 3-day history of the above + fevers up to 
102.4F. 

Acute Medical Issues Addressed:
=========================
#Fevers w/ cough, HA, sweats, myalgias: Most likely viral 
syndrome. Extensive work-up done inpatient was negative at time 
of discharge (see below for details). LP performed without signs 
of meningitis. ID consulted, felt less likely but would still 
evaluate for pertussis. As patient relatively clinically well at 
time of discharge, despite quantiferon gold and pertussis 
serology pending at time of discharge, medical team felt safe to 
discharge with these tests pending. Patient counseled to wear 
mask when out in public until test back -- inpatient team to 
follow tests and call patient when resulted.

-To summarize her findings at the time of discharge:
Normal CXR, CT scan
LDH 267
CK 15
CRP 145
fibrinogen 957
ferritin 610
RF 13
___ NEG
TSH 1.1
HIV Ab NEG
influenza nasal swab NEG
MonoSpot NEG
Lyme IgG & IgM NEG
RP NEG
Red cell smear normal
Blood cultures NO GROWTH
Urine culture GBS
CSF 1 WBC, NO GROWTH
Aspergillus Galactomannan NEG 
Parvovirus B19 NEG 
-Findings pending on discharge:
ANCA
Pertussis serology
CMV IgG & IgM
Anaplasma Ab
B-Glucan
Blastomyces Ag
Histoplasma Ag
Coccidioides 

Chronic Issues Pertinent to Admission:
=============================
# Lichen planus: Stable, no current treatment.

Transitional Issues:
===============
-PCP & Primary Team follow-up of pending lab results (please see 
above list)
-Patient to wear mask in public until pertussis serology results
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Sucralfate 1 gm PO TID:PRN with meals 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Ranitidine 150 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. Hydrocortisone Acetate Suppository ___ID 

 
Discharge Medications:
1.  Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough 
RX *dextromethorphan-guaifenesin [Adult Cough Formula DM Max] 
200 mg-10 mg/5 mL 5 mL by mouth every 6 hours as needed for 
couhg Disp #*1 Package Refills:*0 
2.  Ferrous Sulfate 325 mg PO DAILY  
3.  FoLIC Acid 1 mg PO DAILY  
4.  Hydrocortisone Acetate Suppository ___ID  
5.  Multivitamins 1 TAB PO DAILY  
6.  Omeprazole 20 mg PO DAILY  
7.  Ranitidine 150 mg PO DAILY  
8.  Sucralfate 1 gm PO TID:PRN with meals  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Fever
Headache
Dyspnea
Myalgias

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Thank you for choosing to receive your care at ___.

You were admitted to the hospital because you were having 
fevers, cough, headache and body aches.  While you were here, we 
did many tests to make sure that you do not have an infection.  
Most importantly, we made sure that you do not have meningitis, 
the flu, a bloodstream infection, or mononucleosis. Also, a scan 
of your lungs was normal.  

When you leave, many tests are still not completed.  These tests 
are for more rare viral and fungal infections that we tested you 
for because you were on methotrexate and prednisone which can 
make your body weaker against infection.  When these tests are 
completed, we will contact you to let you know the results.

When you go home, you can continue to rest, take Tylenol, and 
take Robitussin for cough. You should wear a mask if you go out 
in public until the test for pertussis comes back.  If you feel 
like your symptoms get worse, you should call your doctor or 
come back to the hospital.

We wish you the best in feeling better.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___